US07465731B2
To a solution of (3R)-1-(4-fluorobenzyl)-3-pyrrolidinamine dihydrochloride (3.5 g) in DMF (35 ml) was added 5,6-dichloronicotinic acid ethyl ester (3.38 ml) and K2CO3 (6.34 g), the mixture was stirred at 100° C. for 4 hours under N2 atmosphere. The mixed solution was poured into a mixture of water (250 ml) and AcOEt (250 ml). The organic layer was separated, washed with water twice and brine, dried over sodium sulfate and concentrated in vacuo. The residue was purified by silica gel column chromatography eluted with AcOEt:hexane=1:2 to give ethyl 5-chloro-6-{[(3R)-1-(4-fluorobenzyl)-3-pyrrolidinyl]amino}nicotinate (3.75 g).

reactant | (3R)-1-(4-fluorobenzyl)-3-pyrrolidinamine dihydrochloride | 3.5 g | Cl.Cl.FC1=CC=C(CN2C[C@@H](CC2)N)C=C1
reactant | 5,6-dichloronicotinic acid ethyl ester | 3.38 ml | C(C)OC(C1=CN=C(C(=C1)Cl)Cl)=O | C8H7Cl2NO2
reactant | K2CO3 | 6.34 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 250 ml | O | H2O
solvent | DMF | 35 ml | CN(C)C=O | C3H7NO
solvent | AcOEt | 250 ml | CCOC(=O)C | C4H8O2
product | ethyl 5-chloro-6-{[(3R)-1-(4-fluorobenzyl)-3-pyrrolidinyl]amino}nicotinate | 3.75 g | ClC=1C(=NC=C(C(=O)OCC)C1)N[C@H]1CN(CC1)CC1=CC=C(C=C1)F | C19H21ClFN3O2
